data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5692,"C[CH:1]([H:2])[CH2:3][O:4]S(=O)(=O)C(F)(F)F.[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8789,"C[N+:1](CCC[O:2][B-](F)(F)F)=[CH:3]C|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,3700,"CC(=O)[N+]1=CC=C(N(C)C)C=C1.CC(=O)[O-:1].C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,420,"CCCCC1=C([B-:1]2([Cl:2])OC3=C(C=CC=C3)O2)C(C2=CC=CC=C2)=N[O+]1C|((1, 2), 2)"
train,pmechdb_split_0,0,1851,"COC1=C(O)C2=C(C=C1)CC1C3CC(OC)C(=O)CC23CC[N:1]1CCC1=CC=CC=C1.COC1=C(O)C2=C(C=C1)CC1C3CC(OC)[C:2](=[OH+:3])[CH:4]([H:5])C23CCN1CCC1=CC=CC=C1.CS(=O)(=O)[O-]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6173,"CC(=O)CCC(=O)C1=CC(C2=CC=C(C)N2)=CC(C(=O)CCC(C)(N)[OH:1])=C1.CC(=O)[O:2][H:3].O=C[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5775,"CC1=CC=C(S(=O)(=O)OCC2(C)C(=O)C3(C(C)CC[CH:1]([H:2])[S:3](=O)(C4=CC=CC=C4)=[O:4])CCC2C3)C=C1.[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3007,"COC1=CC(OC)=C(OC)C2=C1C(=O)C(C)C(CCC(C)C(C)OC)([O-:1])O2.C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1978,"C[Si](C)(C)C=[C:1]=[CH2:2].C[Si](C)(C)[O+:3](C)[Cl:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7850,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CCC(C)(O)[O+:2](CC(O)CO)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,315,"C[NH+:1]=[CH:2][S-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8843,"COC1=C2C3=C(C=C1)CC1N(C)CCC34C1(O)CC[CH-:1][CH:2]4[O:3]2.N#N.O.[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6809,"CC(=O)NC1C=C[C:1]([H:2])([O:3][I+:4]2(OC(C)=O)OC(=O)C3=C2C=CC=C3)CC1NC(=O)OC(C)(C)C.CC(=O)O.CC(=O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8784,"CC[O:1][C:2](C)(OC)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3120,"C[N-:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1533,"CC(C)OC(=O)C1O[B-:1]([CH2:2][CH:3]=[CH2:4])([O+:5]=[CH:6]C2(C)COC(C)(C)OC2)OC1C(=O)OC(C)C|((1, 2), 3);((3, 4), 6);((6, 5), 5)"
train,pmechdb_split_0,0,1875,"C[NH:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7058,"CC(C#N)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8411,"O=C([O-])C(CC1=CC=CC=C1)N[C:1](OCC1C2=CC=CC=C2C2=C1C=CC=C2)([O:2]N1C(=O)CCC1=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3459,"CC=CCC(C)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10185,"CN[C:1](=[OH+:2])[NH:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7713,"C1=CC(N2CCCC2)=CC=N1.C1=CC=C(C[C:1](OC(NC2CCCCC2)=[N:2]C2CCCCC2)=[O:3])C=C1.CCOC(=O)CC=CCO|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9192,"COC1=C(O)C([CH:1]=[O:2])=CC=C1.C[C:3](=[CH:4]C[N+]12CCN(CC1)CC2)[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2829,"CCOC(=O)C(C[C:1](C)=[O:2])C(C)=O.C[NH2:3].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5784,"CC(C)(C)N.CCCC=C(C)C=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3735,"CC[NH2+:1][C:2](C)(C)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5604,"CC(=O)[O-:1].CC(=O)[O:2][N+:3]1([CH2:4][H:5])C2C=CCC1CC2|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,7159,"C1C[N+:1](=[C:2]2CCC3(C[CH:3]2[H:4])OCCO3)CCO1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9473,"CC(C)[C:1]1([H:2])C=C(C#N)O[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7714,"CCO.CC[N:1](CC)CC.COC1=CC=C(C(=O)[C:2]2([H:3])C3CC(=O)C=C(C4=C(C)NC5=C4C=CC=C5)C3([O-])[N+:4]3=[C:5]2NCCC3)C=C1|(1, 3);((3, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4479,"C[S+](C)[O-:1].O=C(Cl)[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5232,"CCCC(CCC(=O)N(C)CC)[N:1]=[N:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8880,"CC(=CC[C:1](C1=CC=CC=C1)=[OH+:2])[OH:3].O.O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1524,"COC(=O)C12CC(=O)N(CCC3=CC(OC)=C(OC)C=C3)C1=CC=C([OH+:1][C:2](C)(C)[OH:3])C2.O=C([O-])C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,655,"CC[S+](O[C:1](C)([N+:2]1=CC=CC=C1)[O-:3])C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2395,"CC[NH:1]C(C)OC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5205,"CCOC(=O)[C:1](C)=[C:2](C)[O-:3].COC1=C2N=CC=C(C3=C(F)C=CC=C3)C2=C([N+:4]#[N:5])C=C1.O.[Cl-]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3148,"CC(C)[C:1](OC1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3526,"C=C(C[B:1]1OC(C)(C)C(C)(C)O1)C(=O)OC.C=CC1=C(C=[O:2])SC=C1|(2, 1)"
train,pmechdb_split_0,0,356,"C1=CC=[N:1]C=C1.CC1=CN(C2CC(OP(I)(OCCC#N)(OC3CC(N4C=C(C)C(=O)NC4=O)OC3COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[OH+:2][H:3])C(C)O2)C(=O)NC1=O.[I-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5107,"C=CC(=O)[NH:1][H:2].N#[C-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3833,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4921,"COC1=C([N:1]([H:2])[N:3]=[OH+:4])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
